US08202865B2
Step 2: {tert-Butoxycarbonyl-[3-cyanobenzyl]-amino}-acetic acid tert-butyl ester
To a stirred solution of tert-butyl [(3-cyanobenzyl)amino]acetate (8.1 g, 0.0329 mol) in dry THF (100 mL), was added di-tert-butyl dicarbonate (15.79 mL, 0.0724 mol) and N,N-dimethylaminopyridine (0.1 g, 0082 mol) and the mixture was refluxed at 50° C. for a period of 12 hours. The reaction mixture was then concentrated under reduced pressure. The obtained crude product was purified by column using neutral silica gel (60-120 mesh) and pet ether/EtOAc as eluent to afford the title compound as a pale yellow liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.71-7.73 (m, 2H), 7.61-7.63 (m, 1H), 7.53-7.55 (m, 1H), 4.40-4.42 (s, 2H), 3.84 (s, 2H), 1.35-1.37 (m, 18H).

reactant | tert-butyl [(3-cyanobenzyl)amino]acetate | 0.0329 mol, 8.1 g | C(#N)C=1C=C(CNCC(=O)OC(C)(C)C)C=CC1 | C14H18N2O2
reactant | di-tert-butyl dicarbonate | 0.0724 mol, 15.79 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | {tert-Butoxycarbonyl-[3-cyanobenzyl]-amino}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)C#N)C(=O)OC(C)(C)C)=O | C19H26N2O4
